US05856529
Step 3: (2H-3,4-Dihydrobenzopyran-5-yl)carboxaldehyde
(2H-3,4-Dihydrobenzopyran-5-yl)methanol was oxidized using DMSO, oxalyl chloride, and triethyl amine similar to the above procedures to give the product as a clear oil (100%).

reactant | (2H-3,4-Dihydrobenzopyran-5-yl)methanol | C1CC2=C(C=CC=C2OC1)CO | C10H12O2
reactant | DMSO | CS(=O)C | C2H6OS
reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | triethyl amine | C(C)N(CC)CC | C6H15N
product | (2H-3,4-Dihydrobenzopyran-5-yl)carboxaldehyde | 100% | C1CC2=C(C=CC=C2OC1)C=O | C10H10O2
